US06060488
6-Methoxy-2-(4-Methoxyphenyl)-3-(4-[(1-Methylpiperidin-3-yl) methoxy]benzoyl) benzo [b]thiophene
6-Methoxy-2-(4-methoxyphenyl)-3-(4-hydroxybenzoyl)benzo[b]thiophene (1.17 g, 3.00 mmol) and 1-methyl-piperidine methanol (0.775 g, 6.00 mmol) were dissolved in anhydrous tetrahydrofuran (50 mL). To this stirred solution was added triphenylphosphine (1.57 g, 6.00 mmol) followed by diethylazodicarboxylate (0.945 mL, 6.00 mmol) via syringe, and the reaction mixture was stirred at room temperature for 18 hours. The solvent was removed under reduced pressure, and the resulting mixture was flash chromatographed (eluent 7:3 ethyl acetate:methanol) to give 1.176 g (78%) of title compound. MS(FD) 501(M+). IR (CHCl3) ν max 3030, 3011, 2941, 2846, 2795, 1646, 1599, 1476, 1254, 1166.

reactant | 6-Methoxy-2-(4-methoxyphenyl)-3-(4-hydroxybenzoyl)benzo[b]thiophene | 3.00 mmol, 1.17 g | COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)O)=O)C2=CC=C(C=C2)OC)C1 | C23H18O4S
reactant | triphenylphosphine | 6.00 mmol, 1.57 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethylazodicarboxylate | 6.00 mmol, 0.945 mL | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
reactant | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 6-Methoxy-2-(4-Methoxyphenyl)-3-(4-[(1-Methylpiperidin-3-yl) methoxy]benzoyl) benzo [b]thiophene | 1.176 g, 78% | COC=1C=CC2=C(SC(=C2C(C2=CC=C(C=C2)OCC2CN(CCC2)C)=O)C2=CC=C(C=C2)OC)C1 | C30H31NO4S
